US05977105
(c) (2R)-4-(3-Pyridyl)-1-(3-trifluoromethylbiphenyl-4-yloxy)-2-butanol
(2R)-2-(tert-Butyldimethylsilyloxy)-4-(3-pyridyl)-1-(3-trifluoromethylbiphenyl-4-yloxy)butane (0.8 g, ~67% pure) was dissolved in tetrahydrofuran (10 ml) and tetrabutylammonium fluoride (0.84 g) was added. The reaction was stirred at ambient temperature for 1 hour and was then poured into brine and extracted with ether. The combined organic extracts were dried over anhydrous magnesium sulfate, filtered, concentrated under reduced pressure. The residue obtained was purified by reverse phase HPLC to give the title compound as a white solid (0.13 g).

reactant | (2R)-2-(tert-Butyldimethylsilyloxy)-4-(3-pyridyl)-1-(3-trifluoromethylbiphenyl-4-yloxy)butane | 0.8 g | [Si](C)(C)(C(C)(C)C)O[C@@H](COC1=C(C=C(C=C1)C1=CC=CC=C1)C(F)(F)F)CCC=1C=NC=CC1 | C28H34F3NO2Si
reactant | tetrabutylammonium fluoride | 0.84 g | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
product | (2R)-4-(3-Pyridyl)-1-(3-trifluoromethylbiphenyl-4-yloxy)-2-butanol | 0.13 g | N1=CC(=CC=C1)CC[C@H](COC1=C(C=C(C=C1)C1=CC=CC=C1)C(F)(F)F)O | C22H20F3NO2
